Name:  ___     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Dapsone / methotrexate
 
Attending: ___.
 
Chief Complaint:
Admission for HD MTX

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old man with HIV on HAART and CNS
lymphoma on maintenance HD-MTX who is admitted for planned
chemotherapy.

Patient's most recent HD-MTX was over a year ago on ___. He
has been planning q12 month cycles. Of note, in the interim he
was noted to have Kaposi's sarcoma lesion on his penis. Staging
scans showed no visceral involvement, and lesion has since
resolved. He was seen by Dr. ___. 

CT scan was notable for femoral head avascular necrosis and
thyroid nodules. He has undergone MRI of pelvis/hip x2 and FNA 
of
thyroid x2 for further evaluation with no specific findings to
date

He otherwise feels well. He denies fevers or chills. He gets
intermittent headaches a few times a month. No visual changes. 
No
recent cold symptoms. No cough, shortness of breath or chest
pain. No N/V/D. No dysuria. No new leg pain or swelling. He does
note a small pustule behind his right ear and a few scattered
over his chest and back. No fevers, no erythema or tenderness, 
no
fluctuant masses. Also notes intermittent right hip pain over 
the
last few months. No other complaints.

REVIEW OF SYSTEMS: 
A complete 10-point review of systems was performed and was
negative unless otherwise noted in the HPI.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
His neurological problem began at the end of ___ when
he experienced imbalance and blurry vision.  Initially, his gait
imbalance was intermittent, mostly occuring after eating and
lasting for a couple of hours.  However, it progressed to a
constant fashion.  He also developed blurry vision and he had to
close one eye in order to see clearly.  On ___, his
imbalance was severe enough that his brother, ___, took him to ___.  He had a head
CT that showed a mass at the brainstem.  He was referred to see
Dr. ___ on ___ who admitted him to the
Neurosurgery Service.  A gadolinium-enhanced head MRI on 
___
showed a homogeneously enhancing mass at the lateral recess on
the right side of the fourth ventricle.  He then underwent a
stereotaxic biopsy of the mass by Dr. ___ on
___.  After biopsy he remains neurologically stable.  He
then started high-dose methotrexate on ___.
(1) stereotaxic biopsy of the mass by Dr. ___ on
___,
(2) an echocardiogram that was performed on ___ showing
apical hypokinesis but his ejection fraction remained at 55%,
(3) started high-dose methotrexate on ___ and had 5
induction cycles so far,
(4) started re-induction high-dose methtorexate on ___ and
had 3 cycles,
(5) started monthly maintenance high-dose methotrexate on
___ and had 4 cycles,
(6) started every 2-month maintenance high-dose methotrexate on
___ and had 3 cycles,
(7) gadolinium-enhanced head MRI from ___ showed no 
evidence
of active disease, 
(8) started every 3-month maintenance high-dose methotrexate on
___ and had 1 cycle,
(9) saw dermatology for penile lesion on ___ and biopsy
showed Kaposi sarcoma, and
(10) gadolinium-enhanced head MRI from ___ showed no
evidence of active disease.
(11) ___ HD-MTX 8g/m2 (planned)

 
PAST MEDICAL HISTORY: 
- HIV on HAART
- Kaposi sarcoma - solitary penile lesion, ___
- CNS lymphoma as above
- Right-sided opthalmic/V3 shingles
- Bilateral femoral head avascular necrosis 
- Thyroid nodule
- CAD/MI - Stent placed ___ NSTEMI ___ during HD-MTX
admission, DES to RCA and LAD
- Pancreatitis
- HTN
- HLD
- Hx of gastric ulcer
 
Social History:
___
Family History:
His parents are alive; his mother has pre-diabetes while his 
father has glaucoma and prostate cancer.  He has 6 brothers, one 

of the, has kidney problem.  He has 3 daughters and they are all 

healthy.    
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: T 98.3 HR 74 BP 123/76 RR  SAT  96% O2 on RA
GENERAL: Pleasant, lying in bed comfortably
EYES: Anicteric sclerea, PERLL, EOMI; 
ENT: Oropharynx clear without lesion, JVD not elevated 
CARDIOVASCULAR: Regular rate and rhythm, no murmurs, rubs, or
gallops; 2+ radial pulses
RESPIRATORY: Appears in no respiratory distress, clear to
auscultation bilaterally, no crackles, wheezes, or rhonchi
GASTROINTESTINAL: Normal bowel sounds; nondistended; soft,
nontender without rebound or guarding; no hepatomegaly, no
splenomegaly
MUSKULOSKELATAL: Warm, well perfused extremities without lower
extremity edema; Normal bulk 
NEURO: Alert, oriented, CN II-XII intact, motor and sensory
function grossly intact
SKIN: 1mm pustule behind right ear without surrounding erythema,
drainage, or fluctuance. Similar scattered lesions associated
with hair folliciles over chest and back. 
LYMPHATIC: No cervical, supraclavicular, submandibular
lymphadenopathy. No significant ecchymoses

DISCHARGE PHYSICAL EXAM:  
VS: T 97.8 BP 118/73 HR 54 RR 20 O2 97%RA
GENERAL: Pleasant, sitting up in chair comfortably
EYES: Anicteric sclerea, PERLL, EOMI; 
ENT: Oropharynx clear without lesion, JVD not elevated 
CARDIOVASCULAR: Regular rate and rhythm, no murmurs, rubs, or
gallops; 2+ radial pulses
RESPIRATORY: Appears in no respiratory distress, clear to
auscultation bilaterally, no crackles, wheezes, or rhonchi
GASTROINTESTINAL: Normal bowel sounds; nondistended; soft,
nontender without rebound or guarding; no hepatomegaly, no
splenomegaly
MUSKULOSKELATAL: Warm, well perfused extremities without lower
extremity edema; Normal bulk 
NEURO: Alert, oriented, motor and sensory function grossly 
intact
SKIN: 1mm nodule behind right ear without surrounding erythema,
drainage, or fluctuance. 
 
Pertinent Results:
ADMISSION LABS:
===============

___ 11:33AM BLOOD WBC-4.4 RBC-5.10 Hgb-15.5 Hct-45.8 MCV-90 
MCH-30.4 MCHC-33.8 RDW-12.4 RDWSD-40.7 Plt ___
___ 11:33AM BLOOD ___ PTT-30.4 ___
___ 11:33AM BLOOD Glucose-95 UreaN-20 Creat-1.0 Na-138 
K-4.1 Cl-104 HCO3-22 AnGap-16
___ 11:33AM BLOOD ALT-35 AST-27 LD(LDH)-179 AlkPhos-55 
TotBili-0.4
___ 11:33AM BLOOD Albumin-4.2 Calcium-9.3 Phos-3.4 Mg-1.9

DISCHARGE LABS:
===============

___ 04:49AM BLOOD WBC-6.0 RBC-4.88 Hgb-14.8 Hct-43.5 MCV-89 
MCH-30.3 MCHC-34.0 RDW-12.5 RDWSD-41.0 Plt ___
___ 04:49AM BLOOD Glucose-166* UreaN-11 Creat-0.9 Na-138 
K-3.6 Cl-101 HCO3-25 AnGap-16
___ 04:49AM BLOOD ALT-152* AST-58* LD(LDH)-191 AlkPhos-52 
TotBili-0.4
___ 04:49AM BLOOD Calcium-8.6 Phos-2.7 Mg-2.2

MTX TREND:
==========

___ 11:35PM BLOOD mthotrx-2.7
___ 11:09PM BLOOD mthotrx-0.18
___ 05:43PM BLOOD mthotrx-0.07

URINE:
======

___ 11:27AM URINE Color-Yellow Appear-Clear Sp ___
___ 11:27AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-4* pH-8.0 Leuks-MOD

MICRO:
======
___ CULTURE (Final ___:    < 10,000 CFU/mL.L
 
Brief Hospital Course:
PRINCIPLE REASON FOR ADMISSION:
___ is a ___ year old man with HIV on HAART and CNS 
lymphoma on maintenance HD-MTX who is admitted for planned 
chemotherapy.

# CNS lymphoma: Most recent imaging shows no evidence of
recurrence. Per patient request has been placed on q12 month
schedule, although this cycle was delayed due to scheduling and
concurrent medical issues. Urine was alkalinzed with IV and po 
sodium bicarbonate per protocol. He tolerated infusion of 8g/m2 
on ___ with some
mild pruritis, which has been pretty consistent per patients
prior episodes. Leucovorin rescue per protocol and monitored MTX 
level q24 hours until <0.1. Tolerated treatment well without 
signficant side effects aside from mild transaminitis which 
persisted on discharge. He should have this monitored to ensure 
normalization of his LFT's. He will follow up in 12 months for 
his next HD-MTX with clinic visit with Dr. ___ and 
repeat MRI.

# POC: Medial lumen of POC malfuncitoning. Needs stripping. 
Emailed IV access team to alert them for outpatient management.

# Dysuria: Developed single episode of dysuria day prior to 
discharge. UA did have white cells and bacteria. We empirically 
treated with cipro 500 bid x10 days (through ___. Urine 
culture with <10K CFU. He should follow up with his primary care 
doctor to ensure resolution of his dysuria/pyuria.

# Folliculitis: Scattered simple folliculitis on admission exam. 
Could consider mollascum given HIV status, but  lesions appear 
to be more c/w simple folliculitis. No signs of systemic 
infection or even surrounding cellulitis or deeper skin 
infection. Stable.

# HIV: Well controlled, followed at ___. Continued home 
Stribild.

# Kaposi's sarcoma - Single isolated lesion, now resolved prior 
to admission. No evidence of visceral involvement.

# CAD: Takes single agent ASA at home. We held ASA in the 
setting of MTX and substituted plavix instead. We resumed ASA on 
discharge. We also held his statin. We continued metoprolol. 

# HTN: Continued home metoprolol and lisinopril 

# Thyroid nodules: Followed as outpatient. Cytology negative; 
final path pending. Plan for outpatient follow up as previously 
planned

# GERD
# Hx of gastric ulcer: Held home pantoprazole in setting of MTX. 
Substituted ranitidine

# Billing: >30 minutes spent coordinating and executing this 
discharge plan

TRANSITIONAL ISSUES:
====================
- Complete Cipro on ___ am
- Repeat UA after completing antibioitics
- ___ needs to set up stripping of his medial lumen of port
- ___ in one year with Dr. ___ in clinic and with MRI

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 25 mg PO DAILY 
2. Stribild (elvitegr-cobicist-emtric-tenof) ___ mg 
oral qd 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 80 mg PO DAILY 
5. Fish Oil (Omega 3) 1000 mg PO DAILY 
6. Lisinopril 5 mg PO DAILY 
7. Pantoprazole 40 mg PO Q24H 
8. Pravastatin 80 mg PO QPM 
9. Vitamin D 1000 UNIT PO DAILY 
10. Cyanocobalamin 1000 mcg PO DAILY 
11. Centrum Silver Ultra Mens (multivit-min-FA-lycopen-lutein) 
___ mcg oral DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 10 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*9 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO DAILY  
4.  Centrum Silver Ultra Mens (multivit-min-FA-lycopen-lutein) 
___ mcg oral DAILY  
5.  Cyanocobalamin 1000 mcg PO DAILY  
6.  Fish Oil (Omega 3) 1000 mg PO DAILY  
7.  Lisinopril 5 mg PO DAILY  
8.  Metoprolol Succinate XL 25 mg PO DAILY  
9.  Pantoprazole 40 mg PO Q24H  
10.  Pravastatin 80 mg PO QPM  
11.  Stribild (elvitegr-cobicist-emtric-tenof) ___ 
mg oral qd  
12.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# CNS Lymphoma
# Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___. You were admitted for your scheduled HD-MTX 
chemotherapy. You tolerated the infusion well. You did have some 
pain with urination, and we started you on an antibiotic. Please 
take this twice a day throughout the morning of ___. You will 
also need to follow up with the interventional radiology 
department to fix your port. You should hear from them in the 
next few days to schedule this. If you do not hear from them, 
please call Dr. ___ office at ___ to help schedule 
this. Your next HD-MTX is tentatively scheduled for one year on 
___. You will follow up with Dr. ___ in clinic and with 
an MRI before this visit. It has been a pleasure taking care of 
you.

Sincerely, 
Your ___ Care Team
 
Followup Instructions:
___